US07576102B2
3-[4-(4-Phenoxy-phenoxy)-piperidin-1-yl]-propionic acid methyl ester:
To a solution of 4-(4-Phenoxy-phenoxy)-piperidine (152 mg, 0.5 mmol) in anhydrous CH2Cl2 (0.5 mL) was added methyl-3-bromopropionate (91 mg, 0.55 mmol) in CH2Cl2 (0.5 mL) and triethylamine (101 mg, 1.0 mmol). The resulting mixture was purged with nitrogen and stirred at rt for 48 h. CH2Cl2 was removed in vacuo and crude mixture was partioned between EtOAc and water. EtOAc layer was removed, washed with saturated NaHCO3, dried over anhydrous MgSO4 and concentrated. The crude mixture was purified by silica gel flash chromatography (50% EtOAc/Hexane) to obtain the product (146 mg, 82%): MS; m/z 356.5 (M+H); 1H NMR (400 MHz, DMSO-d6); δ 1.56-1.60 (m, 2H), 1.89-1.92 (m, 2H), 2.19-2.49 (m, 2H), 2.46-2.49 (m, 2H), 2.58 (t, 2H, J=6.8Hz), 2.60-2.69 (m, 2H), 3.59 (s, 3H), 4.28-4.30 (m, 1H), 6.91-6.96 (m, 6H), 7.04-7.08 (m, 1H), 7.32-7.36 (m, 2H); HPLC (UV); 94.7%.

reactant | 4-(4-Phenoxy-phenoxy)-piperidine | 0.5 mmol, 152 mg | O(C1=CC=CC=C1)C1=CC=C(OC2CCNCC2)C=C1 | C17H19NO2
reactant | methyl-3-bromopropionate | 0.55 mmol, 91 mg | COC(CCBr)=O | C4H7BrO2
reactant | triethylamine | 1.0 mmol, 101 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-Phenoxy-phenoxy)-piperidin-1-yl]-propionic acid methyl ester | 146 mg, 82% | COC(CCN1CCC(CC1)OC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H25NO4
